US05153210
A solution of the sodium salt of 4-(4-acetonylphenoxy)-3-hydroxy-1H-pyrrole-2,5-dione (1.41 g) and 2-(4-amino-3,5-dichlorophenyl)-2-hydroxy ethylamine (1.0 g) in methanol was treated with sodium cyanoborohydride (0.35 g) and stirred at ambient temperature for 18 hours. The solvent was removed in vacuo, the residue dissolved in acetone and purified by column chromatography on silica using acetone as eluent followed by methanol after the elution of fast-running impurities. The solid obtained was washed with acetone and filtered to give 4-[4-[2-[(4-amino-3,5-dichloro-β-hydroxyphenethyl)amino]propyl]phenoxy]-3-hydroxy-1H-pyrrole-2,5-dione hemihydrate as a (34:66) mixture of diastereoisomers.

reactant | sodium | [Na] | Na
reactant | 4-(4-acetonylphenoxy)-3-hydroxy-1H-pyrrole-2,5-dione | 1.41 g | C(C(=O)C)C1=CC=C(OC2=C(C(NC2=O)=O)O)C=C1 | C13H11NO5
reactant | 2-(4-amino-3,5-dichlorophenyl)-2-hydroxy ethylamine | 1.0 g | NC1=C(C=C(C=C1Cl)C(CN)O)Cl | C8H10Cl2N2O
reactant | sodium cyanoborohydride | 0.35 g | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 4-[4-[2-[(4-amino-3,5-dichloro-β-hydroxyphenethyl)amino]propyl]phenoxy]-3-hydroxy-1H-pyrrole-2,5-dione hemihydrate | O.NC1=C(C=C(C(CNC(CC2=CC=C(OC3=C(C(NC3=O)=O)O)C=C2)C)O)C=C1Cl)Cl.NC1=C(C=C(C(CNC(CC2=CC=C(OC3=C(C(NC3=O)=O)O)C=C2)C)O)C=C1Cl)Cl | InChI=1S/2C21H21Cl2N3O5.H2O/c2*1-10(25-9-16(27)12-7-14(22)17(24)15(23)8-12)6-11-2-4-13(5-3-11)31-19-18(28)20(29)26-21(19)30;/h2*2-5,7-8,10,16,25,27H,6,9,24H2,1H3,(H2,26,28,29,30);1H2
